US07094779B2
To a solution of [5-(morpholin-4-ylmethyl)-4,5-dihydro-isoxazol-3-yl]methanol (0.38 g) in dichloromethane was added dropwise diisopropylethylamine (0.33 mL) and methanesulfonyl chloride (0.15 mL). The resulting solution was stirred at room temperature for 3 h and treated with water. The layers were separated and the organic layer was dried (Na2SO4) en concentrated in vacuo to afford [5-((morpholin-4-yl)methyl)-4,5-dihydro-isoxazol-3-yl]methanol methanesulfonate, 0.52 g (˜100%). Rf 0.63 (CH2Cl2/MeOH/NH4OH 92/7.5/0.5).

reactant | [5-(morpholin-4-ylmethyl)-4,5-dihydro-isoxazol-3-yl]methanol | 0.38 g | N1(CCOCC1)CC1CC(=NO1)CO | C9H16N2O3
reactant | diisopropylethylamine | 0.33 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [5-((morpholin-4-yl)methyl)-4,5-dihydro-isoxazol-3-yl]methanol methanesulfonate | CS(=O)(=O)OCC1=NOC(C1)CN1CCOCC1 | C10H18N2O5S
